US07846960B2
Benzo[b]thiophene-5-carboxylic Acid Ethyl Ester
A saturated solution of HCl in ethanol (15 mL) is added to benzothiophene-5-carboxylic acid (1 g, 5.44 mmol) and stirred at 80° C. overnight. The solvent is removed under reduced pressure. Diethyl ether and saturated sodium bicarbonate are added. The aqueous layer is discarded. The organic layer is washed with saturated sodium bicarbonate and water, dried (Na2SO4), filtered, and concentrated under reduced pressure to yield the title compound as a pale brown oil (1.0 g, 89%). 1H NMR (CDCl3): δ 8.54 (s, 1H), 8.01 (d, 1H, J=8.1 Hz), 7.92 (d, 1H, J=8.1 Hz), 7.51 (d, 1H, J=5.4 Hz), 7.42 (d, 1H, J=5.4 Hz), 4.42 (c, 2H, J=6.8 Hz), 1.43 (t, 3H, J=6.8 Hz).

reactant | HCl | Cl | ClH
reactant | benzothiophene-5-carboxylic acid | 5.44 mmol, 1 g | S1C=CC2=C1C=CC(=C2)C(=O)O | C9H6O2S
reactant | ethanol | 15 mL | C(C)O | C2H6O
product | Benzo[b]thiophene-5-carboxylic Acid Ethyl Ester | 1.0 g, 89% | C(C)OC(=O)C1=CC2=C(SC=C2)C=C1 | C11H10O2S
